US05198552
To a solution containing ethyl 6-bromo-5-hydroxy-1-methyl-2-phenylthiomethylindole-3-carboxylate (76.4 g, 0.18 mole) in 470 ml of diowane was added bis-dimethylaminomethane (50 ml, 0.36 mole). The reaction mixture was refluxed for 3 hours, cooled, diluted with a 3-4-fold amount of water. The precipitated crystalls were removed, washed with water and dried to give 60.1 g (70%) of ethyl 6-bromo-5-hydroxy-4-dimethylaminomethyl-1-methyl-2-phenylthiomethylindole-3-carboxilate; m.p. 125°-126° C.

reactant | ethyl 6-bromo-5-hydroxy-1-methyl-2-phenylthiomethylindole-3-carboxylate | 0.18 mole, 76.4 g | BrC1=C(C=C2C(=C(N(C2=C1)C)CSC1=CC=CC=C1)C(=O)OCC)O | C19H18BrNO3S
reactant | bis-dimethylaminomethane | 0.36 mole, 50 ml | CN(C)CN(C)C | C5H14N2
solvent | water | O | H2O
product | ethyl 6-bromo-5-hydroxy-4-dimethylaminomethyl-1-methyl-2-phenylthiomethylindole-3-carboxilate | 60.1 g, 70% | BrC1=C(C(=C2C(=C(N(C2=C1)C)CSC1=CC=CC=C1)C(=O)OCC)CN(C)C)O | C22H25BrN2O3S
